US09388161B2
A 250-mL round-bottom flask was purged and maintained with an inert atmosphere of nitrogen, and charged with (2S)-6-bromo-5-cyclobutoxy-1-cyclopropanecarbonyl-2-methyl-1,2,3,4-tetrahydroquinoline (2.0 g, 5.5 mmol), tert-butyl 4-[4-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate (2.5 g, 6.63 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane adduct (0.45 g, 0.55 mmol), potassium carbonate (2.3 g, 16.64 mmol), 1,4-dioxane (50 mL) and water (5 mL). The resulting mixture stirred overnight at 100° C. The reaction mixture was cooled to room temperature and then filtered through a pad of Celite. The filtrate was concentrated, and the residue was purified via column chromatography on silica gel (gradient elution with 0-30% ethyl acetate-petroleum ether) to afford (S)-tert-butyl 4-(4-(5-cyclobutoxy-1-(cyclopropanecarbonyl)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate (2.2 g, 75%) as a light yellow solid. MS (ES, m/z): 535 [M+H]+

reactant | (2S)-6-bromo-5-cyclobutoxy-1-cyclopropanecarbonyl-2-methyl-1,2,3,4-tetrahydroquinoline | 5.5 mmol, 2.0 g | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(=O)C1CC1)C)OC1CCC1 | C18H22BrNO2
reactant | tert-butyl 4-[4-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate | 6.63 mmol, 2.5 g | CC1(C(OB(O1)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)(C)C)C | C19H32BN3O4
reactant | potassium carbonate | 16.64 mmol, 2.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane | 0.55 mmol, 0.45 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
solvent | water | 5 mL | O | H2O
product | (S)-tert-butyl 4-(4-(5-cyclobutoxy-1-(cyclopropanecarbonyl)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate | 2.2 g, 75% | C1(CCC1)OC1=C2CC[C@@H](N(C2=CC=C1C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)C(=O)C1CC1)C | C31H42N4O4
